US07687491B2
(21a) 4-(2-Methoxyphenoxy)benzoic acid
The title compound (1.6 g) was synthesized in a yield of 89% as a yellowish white crystalline solid by conducting the similar reaction to that mentioned in Example 10 (10e) using 4-fluorobenzaldehyde (1.2 g, 10 mmol), 2-methoxyphenol (1.7 g, 14 mmol), potassium carbonate (3.5 g, 25 mmol), 2-methyl-2-butene (3.9 ml, 37 mmol), potassium dihydrogenphosphate (2.5 g, 19 mmol) and sodium hypochlorite (2.0 g, 22 mmol).

reactant | 4-fluorobenzaldehyde | 10 mmol, 1.2 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 2-methoxyphenol | 14 mmol, 1.7 g | COC1=C(C=CC=C1)O | C7H8O2
reactant | potassium carbonate | 25 mmol, 3.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methyl-2-butene | 37 mmol, 3.9 ml | CC(C)=CC | C5H10
reactant | potassium dihydrogenphosphate | 19 mmol, 2.5 g | P(=O)(O)(O)[O-].[K+]
reactant | sodium hypochlorite | 22 mmol, 2.0 g | Cl[O-].[Na+]
product | 4-(2-Methoxyphenoxy)benzoic acid | 1.6 g, yield of 89% | COC1=C(OC2=CC=C(C(=O)O)C=C2)C=CC=C1 | C14H12O4
